US05068325
a) 5-Bromo-hexahydro-4H-4-azepinone-hydrobromide
260 ml of 33% hydrogen bromide/glacial acetic acid solution are added at ambient temperature, with stirring, to a solution of 130 g (0.87 mol) of hexahydro-4H-azepin-4-one-hydrochloride (melting point: 177°-178° C.) in 975 ml of glacial acetic acid. Then, within 1.5 hours, a solution of 44.6 ml=139 g (0.87 mol) of bromine in 260 ml of glacial acetic acid is added dropwise, with stirring, at ambient temperature and the resulting mixture is stirred for a further 1.5 hours at ambient temperature. It is evaporated down to dryness in vacuo, the evaporation residue is dissolved in about 1 litre of acetone, mixed with about 0.2 litres of ethyl acetate and left to crystallise out. It is filtered through a glass frit and the filter cake is washed with about 0.2 1 of ice cold acetone. It is then dried at 80° C. in a circulating air dryer. Yield: 214 g (90% of theory), Melting point: 140°-145° C.

reactant | hydrogen bromide | 260 ml | Br | BrH
reactant | hexahydro-4H-azepin-4-one-hydrochloride | 0.87 mol, 130 g | Cl.N1CCC(CCC1)=O
reactant | bromine | 0.87 mol, 139 g | BrBr | Br2
solvent | acetic acid | 975 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 260 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-hexahydro-4H-4-azepinone-hydrobromide | Br.BrC1C(CCNCC1)=O | InChI=1S/C6H10BrNO.BrH/c7-5-1-3-8-4-2-6(5)9;/h5,8H,1-4H2;1H
